US05334576
Preparation of methyl 5-acetyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinate
A mixture of 8.2 g of methyl 5-(1-hydroxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate, 14.5 g of pyridinum dichromate and 1.99 g of pyridinium trifluoroacetate in 30 mL of methylene chloride is stirred at room temperature under nitrogen for 3 days. The reaction mixture is flash-chromatographed through florisil using methylene chloride as eluent, and the combined eluates are washed with water, dried, and concentrated in vacuo to a dark oil. Chromatography of this oil on silica gel using ether-hexane as eluant affords the desired product as a solid. Recrystallization of this solid from methylene chloride-hexane affords a white solid, mp 105°-108° C.

reactant | methyl 5-(1-hydroxyethyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 8.2 g | OC(C)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H21N3O4
reactant | dichromate | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | pyridinium trifluoroacetate | 1.99 g | FC(C(=O)[O-])(F)F.[NH+]1=CC=CC=C1
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-acetyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinate | C(C)(=O)C=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C16H19N3O4
